US05298515
N-[4-(2,4-Dichlorophenyl)-2-thiazolyl]-2,4-dinitro-6-trifluoromethylaniline
A solution of 7.4 g (66 mmol) of potassium tert-butylate in 50 ml of tert-butanol was added dropwise to a vigorously stirred mixture of 8.0 g (33 mmol) of 2-amino-4-(2,4-dichlorophenyl)thiazole, 9.8 g (37 mmol) of 2,4-dinitro-6-trifluoromethylchlorobenzene and 100 ml of tetrahydrofuran/tert-butanol (1:2) at 0° to 5° C. in such a way that addition was complete after 1 hour. After a further hour at 0° C., the mixture was slowly warmed, over the course of about 2 hours, to 20° C. The mixture was then adjusted to pH 4 with glacial acetic acid and diluted with about 1 l of water. The precipitate was separated off, washed with water until neutral and dried. Yield: 90%; melting point 125° to 130° C.

reactant | potassium tert-butylate | 66 mmol, 7.4 g | CC(C)(C)[O-].[K+]
reactant | 2-amino-4-(2,4-dichlorophenyl)thiazole | 33 mmol, 8.0 g | NC=1SC=C(N1)C1=C(C=C(C=C1)Cl)Cl | C9H6Cl2N2S
reactant | 2,4-dinitro-6-trifluoromethylchlorobenzene | 37 mmol, 9.8 g | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)Cl | C7H2ClF3N2O4
reactant | tetrahydrofuran tert-butanol | 100 ml | O1CCCC1.C(C)(C)(C)O
solvent | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | water | about 1 l | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[4-(2,4-Dichlorophenyl)-2-thiazolyl]-2,4-dinitro-6-trifluoromethylaniline | Yield: 90% | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1)NC1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C16H7Cl2F3N4O4S
